US09388185B2
5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluorobenzonitrile
The compound was prepared by using procedures analogous to those described for the synthesis of Example 53, Step 2 starting from 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine and (4-cyano-3-fluorophenyl)boronic acid (from Aldrich). LCMS calculated for C23H20FN4O2(M+H)+: m/z=403.2. Found 403.2.

reactant | 6-bromo-2-[2-(3,5-dimethoxyphenyl)ethyl]-5H-pyrrolo[2,3-b]pyrazine | BrC1=CC=2C(=NC=C(N2)CCC2=CC(=CC(=C2)OC)OC)N1 | C16H16BrN3O2
reactant | (4-cyano-3-fluorophenyl)boronic acid | C(#N)C1=C(C=C(C=C1)B(O)O)F | C7H5BFNO2
product | 5-(2-(3,5-Dimethoxyphenethyl)-5H-pyrrolo[2,3-b]pyrazin-6-yl)-2-fluorobenzonitrile | COC=1C=C(CCC=2N=C3C(=NC2)NC(=C3)C=3C=CC(=C(C#N)C3)F)C=C(C1)OC | C23H19FN4O2
